US04920136
3-Acetyl-5-cyano-2-methyl-6-morpholino-pyridine
9.5 g (48.8 mmol) of 3-acetyl-6-chloro-5-cyano-2-methyl-pyridine are dissolved in 180 ml of toluene, 9.5 g (0.109 mol) of morpholine are added, and the mixture is stirred at 90° C. for two hours. To work up, the mixture is evaporated, and the residue is suspended in water, filtered with suction and carefully washed with water. Re-crystallization from methanol/water is used for purification.

reactant | 3-acetyl-6-chloro-5-cyano-2-methyl-pyridine | 48.8 mmol, 9.5 g | C(C)(=O)C=1C(=NC(=C(C1)C#N)Cl)C | C9H7ClN2O
reactant | morpholine | 0.109 mol, 9.5 g | N1CCOCC1 | C4H9NO
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Acetyl-5-cyano-2-methyl-6-morpholino-pyridine | C(C)(=O)C=1C(=NC(=C(C1)C#N)N1CCOCC1)C | C13H15N3O2
